US04301309
A solution of 130 grams of 2,4-dimethyl-alpha-isopropyl-3:cyclohexene methanol, 300 grams of isopropyl alcohol and 1000 ml of concentrated HCl is heated 21/2 hours at reflux. The reaction mass is cooled and 1500 ml of H2O and 100 ml of toluene is added with stirring. The aqueous layer is discarded and the organic layer is washed twice with water, neutralizing with aqueous caustic soda on the second wash. The organic layer is distilled through a 48" Vigreux column affording 25 grams of 1,5-dimethyl-3-isopropyl-2-oxabicyclo[2.2.2]octane (b.p. 55° C., 1.8 mm Hg pressure).

reactant | cyclohexene methanol | C1(=CCCCC1)CO | C7H12O
reactant | isopropyl alcohol | 300 grams | C(C)(C)O | C3H8O
reactant | HCl | 1000 ml | Cl | ClH
reactant | H2O | 1500 ml | O | H2O
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1,5-dimethyl-3-isopropyl-2-oxabicyclo[2.2.2]octane | 25 grams | CC12OC(C(C(C1)C)CC2)C(C)C | C12H22O
